US08981084B2
DIBAL-H (2.48 mL, 2.98 mmol, 1.2M in toluene) was added dropwise to a solution of methyl 2-(4-fluorophenyl)thiazole-4-carboxylate (300 mg, 1.26 mmol) in dry THF (6 mL) at −30° C. The reaction mixture was allowed to warm up to room temperature and stirred for 10 h. The reaction mixture was quenched carefully with saturated NH4Cl solution, filtered through Celite and diluted with EtOAc. The organic layer was separated, washed with brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 25% EtOAc in petroleum ether) to afford (2-(4-fluorophenyl)thiazol-4-yl)methanol (130 mg, yield 54%). 1H NMR (300 MHz, CDCl3) δ 7.96-7.91 (dd, J=9.0 Hz, 5.3 Hz, 2H), 7.18-7.11 (m, 3H), 4.84-4.82 (d, J=5.3 Hz, 2H), 2.38-2.34 (t, J=6.2 Hz, 1H). MS (ESI) m/z: Calculated for C10H8FNOS: 209.03. found: 209.9 (M+H)+

reactant | DIBAL-H | 2.98 mmol, 1.2M, 2.48 mL | CC(C)C[AlH]CC(C)C
reactant | methyl 2-(4-fluorophenyl)thiazole-4-carboxylate | 1.26 mmol, 300 mg | FC1=CC=C(C=C1)C=1SC=C(N1)C(=O)OC | C11H8FNO2S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (2-(4-fluorophenyl)thiazol-4-yl)methanol | 130 mg, yield 54% | FC1=CC=C(C=C1)C=1SC=C(N1)CO | C10H8FNOS
